US06605629B1
To a mixture of methyl 4-[4-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]butoxy]benzoate (1.86 g), tetrahydrofuran (20 ml) and ethanol (10 ml) was added 15 ml of a 1 N aqueous solution of sodium hydroxide, and the resulting mixture was stirred at 60-65° C. for 3 hours. The reaction mixture was concentrated and then diluted with a 10% aqueous solution of citric acid, and the resulting precipitate was filtered, washed with water and air-dried to give crystals of 4-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]butoxy]benzoic acid. Recrystallization from tetrahydrofuran-isopropyl ether gave colorless prisms (1.15 g, 51%). Melting point 214-216° C.

reactant | methyl 4-[4-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]butoxy]benzoate | 1.86 g | ClC1=CC=C(C=C1)C=1N=C(OC1CCCCOC1=CC=C(C(=O)OC)C=C1)N1C(=NC=C1)C | C25H24ClN3O4
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
